US05744488
Benzyl (E)-3-[3-(dimethylaminomethyl)-2-methyl-1H-indol-4-yl]-2-propenoate
Treatment of benzyl (E)-3-(2-methyl-1H-indol-4-yl)-2-propenoate (6.20 g) with dimethylamine (3.2 ml of 33% solution in methylated spirit), and formaldehyde (1.68 ml of 40% aqueous solution) in acetic acid (13 ml) and tetrahydrofuran (15 ml) according to the method of Preparation 12 gave thetitle compound as a foam (7.45 g), Rf. 0.3(SS3).

reactant | benzyl (E)-3-(2-methyl-1H-indol-4-yl)-2-propenoate | 6.20 g | CC=1NC2=CC=CC(=C2C1)/C=C/C(=O)OCC1=CC=CC=C1 | C19H17NO2
reactant | dimethylamine | 3.2 ml | CNC | C2H7N
reactant | formaldehyde | 1.68 ml | C=O | CH2O
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Benzyl (E)-3-[3-(dimethylaminomethyl)-2-methyl-1H-indol-4-yl]-2-propenoate | 7.45 g | CN(C)CC1=C(NC2=CC=CC(=C12)/C=C/C(=O)OCC1=CC=CC=C1)C | C22H24N2O2
